US07049315B2
4-Hydroxy-6,7-methylenedioxy-3-quinolinecarboxylic acid.
4-Hydroxy-6,7-methylenedioxy-3-quinolinecarboxylic acid ethyl ester (45.0 g, 0.172 mol) was added to a solution of KOH (16.8 g, 0.258 mol) in ethanol (500 mL) and the mixture was heated to reflux with stirring for 20 hours. The reaction flask was then cooled and ethanol was evaporated under reduced pressure. Then 800 mL of water were added with stirring to fully dissolve the potassium salt, and the solution was filtered to remove any impurities. Concentrated HCl was added to bring the mixture to pH 1, and the free acid was filtered off and dried under vacuum, to give 33.9 g as a beige solid, in 84%; mp >300° C. (lit.221 mp >290° C.); 1H NMR (DMSO-d6) δ 6.27 (s, 2H), 7.30 (s, 1H), 7.55 (s, 1H), 8.72 (s, 1H); 13C NMR (DMSO-d6) δ 98.5, 101.8, 103.8, 107.9, 120.8, 137.9, 143.5, 148.1, 153.7, 167.4, 177.4.

reactant | 4-Hydroxy-6,7-methylenedioxy-3-quinolinecarboxylic acid ethyl ester | 0.172 mol, 45.0 g | C(C)OC(=O)C=1C=NC2=CC3=C(C=C2C1O)OCO3 | C13H11NO5
reactant | KOH | 0.258 mol, 16.8 g | [OH-].[K+]
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 4-Hydroxy-6,7-methylenedioxy-3-quinolinecarboxylic acid | OC1=C(C=NC2=CC3=C(C=C12)OCO3)C(=O)O | C11H7NO5
